US09285679B2
(Synthesis of Sodium Tricyclohexylbenzenesulfonate)
4.0 g of triphenylsulfonium bromide was dissolved in 20 ml of methanol, and 5.0 g of sodium 1,3,5-tricyclohexylbenzenesulfonate dissolved in 20 ml of methanol was added thereto. After stirring at room temperature for 2 hours, 50 ml of ion-exchanged water was added, and the product was extracted with chloroform. The obtained organic layer was washed with water and then distilled off under reduced pressure at 40° C., and the obtained crystal was recrystallized from a methanol/ethyl acetate solvent, whereby 5.0 g of PAG-1 was obtained.

reactant | triphenylsulfonium bromide | 4.0 g | [Br-].C1(=CC=CC=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium 1,3,5-tricyclohexylbenzenesulfonate | 5.0 g | C1(CCCCC1)C1(CC(=CC(=C1)C1CCCCC1)C1CCCCC1)S(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | Sodium Tricyclohexylbenzenesulfonate | C1(CCCCC1)C1=C(C(=C(C=C1)S(=O)(=O)[O-])C1CCCCC1)C1CCCCC1.[Na+] | InChI=1S/C24H36O3S.Na/c25-28(26,27)22-17-16-21(18-10-4-1-5-11-18)23(19-12-6-2-7-13-19)24(22)20-14-8-3-9-15-20;/h16-20H,1-15H2,(H,25,26,27);/q;+1/p-1
